US07323472B2
4-(2-Fluoro-phenyl)-8-(1-ethyl-propyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8H-pyrido[2,3-d]pyrimidin-7-one
4-(2-Fluorophenyl)-8-(1-ethylpropyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one, and serinol were reacted by the procedure of Example 60 to afford the title compound 4-(2-fluoro-phenyl)-8-(1-ethyl-propyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR: δ 0.82 (m, 6H), 1.32 (m, 4H), 1.90 (m, 2H), 2.32 (m, 2H), 3.71 (m, 2H), 4.24 (m, 1H), 5.38 (m, 0.5H), 5.69 (m, 0.5H), 5.71 (br s, 1H), 6.30 (br d, 1H, J=9.6), 7.13 (d, 1H, J=9.6 Hz), 7.30-7.55 (m, 4H). LC MS (m/e)=401 (MH+)

reactant | 4-(2-Fluorophenyl)-8-(1-ethylpropyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)S(=O)(=O)C)N(C(C=C2)=O)C(CC)CC | C19H20FN3O3S
reactant | serinol | NC(CO)CO | C3H9NO2
product | 4-(2-fluoro-phenyl)-8-(1-ethyl-propyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C(CC)CC | C21H25FN4O3
